US08076325B2
Step 1: 5-Methoxy-4-methylbenzaldehyde
At ambient temperature, 36.35 g (238.8 mmol) of (3-methoxy-4-methylphenyl)-methanol and 207.6 g (2.4 moles/10 eq.) of manganese oxide are mixed into 730 mL of dichloromethane. Stirring is carried out at ambient temperature overnight, followed by filtration over Celite and rinsing with dichloromethane. After concentration of the combined filtrates, the desired product is obtained.

reactant | (3-methoxy-4-methylphenyl)-methanol | 238.8 mmol, 36.35 g | COC=1C=C(C=CC1C)CO | C9H12O2
catalyst | manganese oxide | 2.4 moles, 207.6 g, 10 eq. | [O-2].[Mn+2]
solvent | dichloromethane | 730 mL | ClCCl | CH2Cl2
product | 5-Methoxy-4-methylbenzaldehyde | COC=1C(=CC=C(C=O)C1)C | C9H10O2
